US08313669B2
10.3. 3′,5′-Bis(4-hydroxybutyl)biphenyl-4-ol
4-[4′-Benzyloxy-5-(4-hydroxybut-1-ynyl)biphenyl-3-yl]but-3-yn-1-ol is dissolved in THF and hydrogenated to completion on a palladium/activated carbon catalyst. The catalyst is filtered off, the filtrate is evaporated in vacuo, and the residue is filtered through silica gel with toluene/ethyl acetate (1:1).

reactant | 4-[4′-Benzyloxy-5-(4-hydroxybut-1-ynyl)biphenyl-3-yl]but-3-yn-1-ol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC(=CC(=C1)C#CCCO)C#CCCO | C27H24O3
solvent | THF | C1CCOC1 | C4H8O
catalyst | palladium | [Pd] | Pd
product | 3′,5′-Bis(4-hydroxybutyl)biphenyl-4-ol | OCCCCC=1C=C(C=C(C1)CCCCO)C1=CC=C(C=C1)O | C20H26O3
